US06610711B2
n-Heptanesulfonyl Chloride
To phosphorous pentachloride (3.3 g, 16 mmol) was added solid heptanesulfonic acid, sodium salt monohydrate (1.75 g, 8 mmol) and the mixture was left to stir overnight under nitrogen. Phosphorous oxychloride was removed by distillation at 150° C. for 3 h. The residue was distilled under reduced pressure (ca. 5 mm Hg) at 135° C. to give ca. 1 g of material which was allowed to cool to room temperature. The precipitated free acid was removed by filtration to afford the title compound as an oil (500 mg, 31%) which was used without further purification.

reactant | phosphorous pentachloride | 16 mmol, 3.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | heptanesulfonic acid | C(CCCCCC)S(=O)(=O)O | C7H16O3S
reactant | sodium | 8 mmol, 1.75 g | [Na] | Na
product | n-Heptanesulfonyl Chloride | ca. 1 g | C(CCCCCC)S(=O)(=O)Cl | C7H15ClO2S
